US06432993B1
(25-2) 5-{4-[6-(3-t-Butyl-4-hydroxyphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidin-2,4-dione hydrochloride
A mixture of t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(3-t-butyl-4-hydroxyphenoxy)phenyl}-N-methylcarbamate (1.75 g) and 4N hydrogen chloride/dioxane (20 ml) was stirred at room temperature for 14 hours. The solvent of the reaction mixture was evaporated to dryness and to the residue was added ethyl acetate and insoluble product was isolated by filtration and washed with ethyl acetate to give the title compound (1.11 g).

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-(3-t-butyl-4-hydroxyphenoxy)phenyl}-N-methylcarbamate | 1.75 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC(=C(C=C2)O)C(C)(C)C)N(C(OC(C)(C)C)=O)C)C=C1 | C34H39N3O8S
reactant | hydrogen chloride dioxane | 4N, 20 ml | Cl.O1CCOCC1
product | 5-{4-[6-(3-t-Butyl-4-hydroxyphenoxy)-1-methyl-1H-benzimidazole-2-ylmethoxy]benzyl}thiazolidin-2,4-dione hydrochloride | 1.11 g | Cl.C(C)(C)(C)C=1C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=CC1O | InChI=1S/C29H29N3O5S.ClH/c1-29(2,3)21-14-19(10-12-24(21)33)37-20-9-11-22-23(15-20)32(4)26(30-22)16-36-18-7-5-17(6-8-18)13-25-27(34)31-28(35)38-25;/h5-12,14-15,25,33H,13,16H2,1-4H3,(H,31,34,35);1H
